US07485661B2
Preparation of methyl 3-amino-1H-thieno[3,2-c]pyrazole-5-carboxylate (5)
To an ice-cooled suspension of methyl 5-cyano-4-nitro-thiophene-2-carboxylate (0.10 mol, 21.0 g) in 120 mL of hydrochloric acid 37% was added, dropwise, a solution of sodium nitrite (0.12 mol, 8.3 g) in 12 mL of water. After 1.5 hours, the cold suspension was added dropwise to a preformed solution of tin chloride (0.80 mol, 151.7 g) in 120 mL of hydrochloric acid 37%, at 5° C. After 3 hours, the cold suspension was filtered and the moist solid was treated with 350 mL of boiling water, for 30 min. The hot cloudy solution was clarified by filtration through a cloth filter. The liquors were ice-cooled and treated, dropwise, with 180 mL of sodium hydroxide 17%. The obtained solid was filtered off and dried, under vacuum, at 50° C., to give 7.3 g of the title compound as a yellow solid (37% yield).

reactant | methyl 5-cyano-4-nitro-thiophene-2-carboxylate | 0.10 mol, 21.0 g | C(#N)C1=C(C=C(S1)C(=O)OC)[N+](=O)[O-] | C7H4N2O4S
reactant | sodium nitrite | 0.12 mol, 8.3 g | N(=O)[O-].[Na+]
reactant | tin chloride | 0.80 mol, 151.7 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | hydrochloric acid | 120 mL | Cl | ClH
solvent | water | 12 mL | O | H2O
solvent | hydrochloric acid | 120 mL | Cl | ClH
product | methyl 3-amino-1H-thieno[3,2-c]pyrazole-5-carboxylate | 7.3 g, 37% yield | NC=1C2=C(NN1)C=C(S2)C(=O)OC | C7H7N3O2S
